US06951848B2
2-Methyl-2-pyrrolidin-1-yl-propan-1-ol
2-Methyl-2-pyrrolidin-1-yl-propionic acid ethyl ester (2.00 g, 10.8 mmol, 1 eq) was suspended in dry THF (20 mL) under Ar. Methanol (2.0 mL, 50 mmol, 5.0 eq) was added followed by cooling to 4° C. and the addition of lithium borohydride (25 mL of 2M, 50 mmol, 5.0 eq). The reaction mixture was stirred and allowed to warm to room temperature. After 18 hours, the reaction was quenched with methanol, then aqueous NaOH, and extracted with CH2Cl2 (3×). The combined organic extracts were washed with brine and dried over Na2SO4. After removing the solvent, the crude residue was used in the next step.

reactant | 2-Methyl-2-pyrrolidin-1-yl-propionic acid ethyl ester | 10.8 mmol, 2.00 g, 1 eq | C(C)OC(C(C)(N1CCCC1)C)=O | C10H19NO2
reactant | Methanol | 50 mmol, 2.0 mL, 5.0 eq | CO | CH4O
reactant | lithium borohydride | 50 mmol, 2M, 25 mL, 5.0 eq | [BH4-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-pyrrolidin-1-yl-propan-1-ol | CC(CO)(C)N1CCCC1 | C8H17NO
